US06696473B2
Preparation of 2-(3-Acetylphenylimino)-3-benzyl-5-[5-(2-methoxyethoxy)-3-methyl-3H-benzothiazol-2-ylidene]thiazolidin-4-one
The title compound was synthesized in a manner similar to that described in Example 146 by condensing 3′-aminoacetophenone with 3-benzyl-5-[5-(2-methoxyethoxy)-3-methylbenzothiazol-2-ylidene]-2-methylthio-4-oxo-2-thiazolium p-toluenesulfonate. 1H-NMR (CDCl3): δ 7.75 (1H, d), 7.60-7.64 (3H, m), 7.28-7.50 (6H, m), 7.24 (1H, d), 6.85 (1H, m), 5.21 (2H, s), 4.18 (2H, m), 3.80 (2H, m), 3.70 (3H, s), 3.48 (3H, s), 2.65 (3H, s); MS(ESI): 546 (MH+).

reactant | 3′-aminoacetophenone | NC=1C=C(C=CC1)C(C)=O | C8H9NO
reactant | 3-benzyl-5-[5-(2-methoxyethoxy)-3-methylbenzothiazol-2-ylidene]-2-methylthio-4-oxo-2-thiazolium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C(C1=CC=CC=C1)N1[CH2+](SC(C1=O)=C1SC2=C(N1C)C=C(C=C2)OCCOC)SC
product | 2-(3-Acetylphenylimino)-3-benzyl-5-[5-(2-methoxyethoxy)-3-methyl-3H-benzothiazol-2-ylidene]thiazolidin-4-one | C(C)(=O)C=1C=C(C=CC1)N=C1SC(C(N1CC1=CC=CC=C1)=O)=C1SC2=C(N1C)C=C(C=C2)OCCOC | C29H27N3O4S2
